US08211925B2
3-[2-(3-Isopropoxy-5-phenoxybenzoylamino)-thiazol-5-yl]-acrylic acid ethyl ester (102 mg, 67%) was prepared from N-(5-formylthiazol-2-yl)-3-isopropoxy-5-phenoxybenzamide (130 mg, 0.34 mmol) and (carboethoxymethylene)triphenylphospho-rane (150 mg, 0.43 mmol) by heating a THF solution (5.0 mL) of the reactants at 50° C. overnight. Molecular sieves (4A) were added to remove any water in the reaction.

reactant | N-(5-formylthiazol-2-yl)-3-isopropoxy-5-phenoxybenzamide | 0.34 mmol, 130 mg | C(=O)C1=CN=C(S1)NC(C1=CC(=CC(=C1)OC1=CC=CC=C1)OC(C)C)=O | C20H18N2O4S
reactant | (carboethoxymethylene)triphenylphospho-rane | 0.43 mmol, 150 mg | C(=O)(OCC)C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C22H21O2P
reactant | THF | 5.0 mL | C1CCOC1 | C4H8O
product | 3-[2-(3-Isopropoxy-5-phenoxybenzoylamino)-thiazol-5-yl]-acrylic acid ethyl ester | 102 mg, 67% | C(C)OC(C=CC1=CN=C(S1)NC(C1=CC(=CC(=C1)OC1=CC=CC=C1)OC(C)C)=O)=O | C24H24N2O5S
